US09029402B2
To a solution of A-4 (4-cyano-2-methylbenzoic acid) (20 g, 0.124 mol) in toluene (200 mL) was added thionyl chloride (18 mL, 0.248 mol), and catalytic amount of dimethylformamide (0.5 mL). The resultant mixture was stirred at 70° C. for 14 h, and concentrated under reduced pressure to give A-5 (4-cyano-2-methylbenzoyl chloride) (24 g, yield 100%), which was used in the next step without further purification.

reactant | 4-cyano-2-methylbenzoic acid | C(#N)C1=CC(=C(C(=O)O)C=C1)C | C9H7NO2
reactant | thionyl chloride | 0.248 mol, 18 mL | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 4-cyano-2-methylbenzoyl chloride | yield 100% | C(#N)C1=CC(=C(C(=O)Cl)C=C1)C | C9H6ClNO
